US07125901B2
A mixture of N-(4-(2-(4-aminophenyl)ethyl)-1,3-thiazol-2-yl)acetamide (65 mg) prepared in a similar manner according to Step 6 of Production Example 1, ethyl 2-(methylsulfanyl)-4,5-dihydro-1H-imidazole-1-carboxylate (56 mg), acetic acid (0.1 ml), ethanol (0.9 ml) was stirred at 65° C. for 6 hours, and then refluxed for 5 hours. The reaction mixture was poured into ethyl acetate (5 ml) and saturated aqueous sodium bicarbonate. The precipitated solid was filtered, and the solid was dissolved in 50% methanol/chloroform. The insoluble materials were filtered off and the filtrate was concentrated in vacuo. The solid residue was collected and washed with ethyl acetate to give N-(4-{2-[4-(4,5-dihydro-1H-imidazol-2-ylamino)phenyl]-ethyl}-1,3-thiazol-2-yl)acetamide (40 mg).

reactant | N-(4-(2-(4-aminophenyl)ethyl)-1,3-thiazol-2-yl)acetamide | 65 mg | NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C13H15N3OS
reactant | ethyl 2-(methylsulfanyl)-4,5-dihydro-1H-imidazole-1-carboxylate | 56 mg | CSC=1N(CCN1)C(=O)OCC | C7H12N2O2S
reactant | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
product | N-(4-{2-[4-(4,5-dihydro-1H-imidazol-2-ylamino)phenyl]-ethyl}-1,3-thiazol-2-yl)acetamide | 40 mg | N1C(=NCC1)NC1=CC=C(C=C1)CCC=1N=C(SC1)NC(C)=O | C16H19N5OS
